US06723724B2
Preparation of 1-(4-{3-[3-(4-Chlorophenyl)isoxazol-5-yl]propyl}piperazinyl)-2-methoxybenzene
About 2 min after dissolving 3-[3-(4-chlorophenyl)isoxazol-5-yl]propanal (10 mg, 0.04 mmol) and 1-(2-methoxyphenyl)piperazine (16.2 mg, 0.08 mmol) in 2 mL of dry methylene chloride, were added NaBH(OAc)3 (26.7 mg, 0.13 mmol) and molecular sieves (5 beads). The reaction mixture was reacted for 16.5 hr and followed the same processes as in Example 1 to obtain 16.7 mg (96.5%) of the target compound.

reactant | 3-[3-(4-chlorophenyl)isoxazol-5-yl]propanal | 0.04 mmol, 10 mg | ClC1=CC=C(C=C1)C1=NOC(=C1)CCC=O | C12H10ClNO2
reactant | 1-(2-methoxyphenyl)piperazine | 0.08 mmol, 16.2 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaBH(OAc)3 | 0.13 mmol, 26.7 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-{3-[3-(4-Chlorophenyl)isoxazol-5-yl]propyl}piperazinyl)-2-methoxybenzene | 16.7 mg, 96.5% | ClC1=CC=C(C=C1)C1=NOC(=C1)CCCN1CCN(CC1)C1=C(C=CC=C1)OC | C23H26ClN3O2
